US08710242B2
α,3-Bis(trifluoromethyl)-5-fluorobenzenemethanamine
2.18 g (7.92 mmol) of 2,2,2-trifluoro-1-[3-fluoro-5-(trifluoromethyl)phenyl]ethanone oxime were stirred in 35.4 ml of isopropyl ether, and admixed with 3.54 g (93.35 mmol) of lithium aluminium hydride in portions [cf, also synthesis of aryltrifluoroethylamines: DE 2723464, 1977)]. Thereafter, the reaction mixture was stirred at reflux temperature for approx. 3 hours. For workup, the reaction mixture was cooled to 0° C., and admixed cautiously with saturated tartaric acid solution, in order to destroy excess lithium aluminium hydride. After the vigorous evolution of gas had ended, the mixture was admixed with 2N sodium hydroxide solution (alkaline) and the organic phase was removed. The aqueous phase was extracted twice more with isopropyl ether. Thereafter, the combined phases were dried over magnesium sulphate and concentrated under reduced pressure at 40° C. (not less than 50 mbar). This gave 1.55 g (71.7% of theory) of α,3-bis(trifluoromethyl)-5-fluorobenzenemelthanamine, which was used for subsequent reactions without further purification.

reactant | 2,2,2-trifluoro-1-[3-fluoro-5-(trifluoromethyl)phenyl]ethanone oxime | 7.92 mmol, 2.18 g | FC(C(=NO)C1=CC(=CC(=C1)C(F)(F)F)F)(F)F | C9H4F7NO
reactant | lithium aluminium hydride | 93.35 mmol, 3.54 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tartaric acid | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
solvent | isopropyl ether | 35.4 ml | C(C)(C)OC(C)C | C6H14O
product | α,3-Bis(trifluoromethyl)-5-fluorobenzenemethanamine | FC(C(N)C1=CC(=CC(=C1)F)C(F)(F)F)(F)F | C9H6F7N
